US07015218B1
Ethyl 5-amino-1-(4-fluorophenyl)pyrazole-4-carboxylate (5.4 g) was dissolved in 12N hydrochloric acid, and aqueous solution (10 ml) containing sodium nitrite (4.5 g) was added dropwise thereto under ice-cooling, which was followed by stirring for 2 h. An aqueous solution (10 ml) containing copper(I) chloride (10.7 g) was added and the mixture was stirred for 30 min. The mixture was warmed to room temperature and stirred further for 2 h. Solid was filtered off with Celite and ethyl acetate was added to the filtrate to separate the organic layer. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. n-Hexane was added to the obtained residue to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-n-hexane to give ethyl 5-chloro-1-(4-fluorophenyl)pyrazole-4-carboxylate (3.5 g), melting point: 70–72° C.

reactant | Ethyl 5-amino-1-(4-fluorophenyl)pyrazole-4-carboxylate | 5.4 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)OCC | C12H12FN3O2
reactant | sodium nitrite | 4.5 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 12N | Cl | ClH
catalyst | copper(I) chloride | 10.7 g | [Cu]Cl
product | ethyl 5-chloro-1-(4-fluorophenyl)pyrazole-4-carboxylate | 3.5 g | ClC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)OCC | C12H10ClFN2O2
